US07371773B2
Production of (Z)-2-(3,4-dimethoxy-phenyl)-3-(4-fluoro-phenyl)-acrylonitrile (Compound 18)
4-Fluorobenzaldehyde (620 mg) and 3,4-dimethoxybenzyl cyanide (880 mg) were subjected to condensation in accordance with process A of (production process 2), to thereby produce the target product (1.02 g, yield: 72%).

reactant | 4-Fluorobenzaldehyde | 620 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 3,4-dimethoxybenzyl cyanide | 880 mg | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2-(3,4-dimethoxy-phenyl)-3-(4-fluoro-phenyl)-acrylonitrile | 1.02 g, yield: 72% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=CC=C(C=C1)F | C17H14FNO2
